US08236806B2
1-(2-fluorophenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 12)
74 mg (83%) of target compound was obtained by using a method same as in Example 1 by using 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal (55 mg, 0.199 mmol), 1-(2-fluorophenyl)piperazine (0.026 mL, 0.166 mmol), DIPEA (35 mL, 0.199 mmol) and NaBH(OAc)3 (148 mg, 0.697 mmol).

reactant | 3-(1,5-diphenyl-1H-pyrazol-3-yl)propanal | 0.199 mmol, 55 mg | C1(=CC=CC=C1)N1N=C(C=C1C1=CC=CC=C1)CCC=O | C18H16N2O
reactant | 1-(2-fluorophenyl)piperazine | 0.166 mmol, 0.026 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | DIPEA | 0.199 mmol, 35 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.697 mmol, 148 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1,5-diphenyl-1H-pyrazol-3-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H29FN4
